US07956060B2
4-Chloro-5-(5-cyclopropyl[1,3,4]oxadiazol-2-yl)-2-methylthiopyrimidine (13 mg, 0.050 mmol) [Compound (AC) in which Q is a chlorine atom, R2B is methylthio, and —X—Y—Z— is —O—C(c-C3H5)═N—] obtained in Reference Example 3 was dissolved in THF (0.50 mL), then triethylamine (0.007 mL) and a chloroform solution (1.0 mol/L, 0.10 mL) of R1—H [wherein R1 is the same as that defined above: Compound (B)] were added thereto, followed by stirring at 60° C. for 12 hours with hermetic sealing. After completion of the reaction was confirmed by thin-layer chromatography, the reaction mixture was concentrated and dried. The residue was dissolved in chloroform (0.60 mL), then benzoyl chloride polymer-bound [about 2.5 mmol/g, 23 mg, Canadian Journal of Chemistry, vol. 55, p. 3351 (1977)], and poly(4-vinylpyridine) (23 mg) were added thereto, followed by further stirring at room temperature for 12 hours. The resin was filtered off from the reaction mixture, and the filtrate was concentrated and dried to give 4-amino-5-(5-cyclopropyl[1,3,4]oxadiazol-2-yl)-2-methylthiopyrimidine [Compound (AD) in which —X—Y—Z— is —O—C(c-C3H5)═N—].

reactant | 4-Chloro-5-(5-cyclopropyl[1,3,4]oxadiazol-2-yl)-2-methylthiopyrimidine | 0.050 mmol, 13 mg | ClC1=NC(=NC=C1C=1OC(=NN1)C1CC1)SC | C10H9ClN4OS
reactant | triethylamine | 0.007 mL | C(C)N(CC)CC | C6H15N
reactant | chloroform | 1.0 mol/L, 0.10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 0.50 mL | C1CCOC1 | C4H8O
product | 4-amino-5-(5-cyclopropyl[1,3,4]oxadiazol-2-yl)-2-methylthiopyrimidine | NC1=NC(=NC=C1C=1OC(=NN1)C1CC1)SC | C10H11N5OS
